US09216993B2
To a solution of 245 mg of 5-methyl-1H-indole-2-carbonitrile (1.6 mmol) in 5 mL of acetonitrile 0.434 mL of di-tert-butyl dicarbonate (1.9 mmol) and 29 mg of DMAP (0.24 mmol) were added and stirred at room temperature for 30 min. The solvent was removed in vacuo, and the resultant crude product was purified by column chromatography (silica gel) using pure hexane-ethyl acetate 10:1 as an eluant to afford 334 mg of tert-butyl 2-cyano-5-methyl-1H-indole-1-carboxylate. 1H NMR (600 MHz, CDCl3): δ 8.10 (d, 1H, J=8.8 Hz), 7.39 (s, 1H), 7.31 (d, 1H, J=8.8 Hz), 7.26 (s, 1H), 2.45 (s, 3H), 1.72, (s, 9H). 13C NMR (150 MHz, CDCl3): δC 148.22, 134.94, 133.78, 129.85, 121.61, 121.24, 115.53, 113.46, 108.76, 85.54, 28.05, 21.21.

reactant | 5-methyl-1H-indole-2-carbonitrile | 1.6 mmol, 245 mg | CC=1C=C2C=C(NC2=CC1)C#N | C10H8N2
reactant | di-tert-butyl dicarbonate | 1.9 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.24 mmol, 29 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 2-cyano-5-methyl-1H-indole-1-carboxylate | 334 mg | C(#N)C=1N(C2=CC=C(C=C2C1)C)C(=O)OC(C)(C)C | C15H16N2O2
